US06809220B2
Pyrene (10,1 g; 0.05 mol) and 2,4-dimethoxybenzoyl chloride (10 g; 0.05 mol) were dissolved in 400 ml of anhydrous methylene chloride. Anhydrous aluminium chloride (6.6 g; 0.05 mol) was added to the reaction mixture in small portions over 1 h at 0° C. with intense stirring. The reaction mixture was stirred for another 2 h at 0° C., 2 h at rt and then poured onto a mixture of ice and HCl (500 ml) and transferred into a separating funnel. The organic layer was washed with water (1×500 ml), saturated NaHCO3 (2×500 ml) and saturated NaCl (1×500 ml). The organic fraction was evaporated and recrystallised from toluene to give pyrenylketone as white solid (15.7 g; 86%). Found: C, 82.09; H, 4.81. C25H18O3 (MW 366.41) requires C, 81.95; H, 4.95%. 1H-NMR (CDCl3, d): 8.65-6.45 (m, 12 H, arom.), 3.91 (s, 3H, OCH3), 3.55 (s, 3H, OCH3). Mass-spectrum, MALDI-TOF: 388.89 (MI+Na; 15), 366.89 (100), 203.82 (40). Calculated exact mass for C25H18O3:366.12559; found 366.12617 [1.6 ppm error].

reactant | Pyrene | 0.05 mol, 10,1 g | C1=CC=C2C=CC3=CC=CC4=CC=C1C2=C34 | C16H10
reactant | 2,4-dimethoxybenzoyl chloride | 0.05 mol, 10 g | COC1=C(C(=O)Cl)C=CC(=C1)OC | C9H9ClO3
reactant | aluminium chloride | 0.05 mol, 6.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | HCl | 500 ml | Cl | ClH
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | pyrenylketone | C1(=CC=C2C=CC3=CC=CC4=CC=C1C2=C34)C(=O)C3=CC=C4C=CC2=CC=CC1=CC=C3C4=C21 | C33H18O
